US06727249B2
(1R*,2RS,5S*,6R*)-8-Benzyl-1-phenyl-6-phenylsulphonyl-8-azabicyclo[3.2.1]oct-3-en-2-ol
Sodium borohydride (450 mg, 11.8 mmol) was added to a stirred suspension of (1R*,5S*,6R*)-8-benzyl-1-phenyl-6-phenylsulphonyl-8-azabicyclo[3.2.1]oct-3-en-2-one (Description 2; 3.5 g, 8.1 mmol) in methanol (40 ml) at +5° C. The reaction mixture was stirred for 1 hour and quenched with saturated NaHCO3 and concentrated in vacuo to removed methanol. The aqueous phase was extracted with ethyl acetate (3×50 ml). The combined organic extracts were dried (Na2SO4) and concentrated to give a 4.4:1 mixture of epimeric alcohols. The diastereoisomers were separated by flash chromatography followed by crystallisation.

reactant | Sodium borohydride | 11.8 mmol, 450 mg | [BH4-].[Na+]
reactant | (1R*,5S*,6R*)-8-benzyl-1-phenyl-6-phenylsulphonyl-8-azabicyclo[3.2.1]oct-3-en-2-one | 8.1 mmol, 3.5 g | C(C1=CC=CC=C1)N1[C@@]2(C(C=C[C@H]1[C@@H](C2)S(=O)(=O)C2=CC=CC=C2)=O)C2=CC=CC=C2 | C26H23NO3S
solvent | methanol | 40 ml | CO | CH4O
product | (1R*,2RS,5S*,6R*)-8-Benzyl-1-phenyl-6-phenylsulphonyl-8-azabicyclo[3.2.1]oct-3-en-2-ol | C(C1=CC=CC=C1)N1[C@@]2(C(C=C[C@H]1[C@@H](C2)S(=O)(=O)C2=CC=CC=C2)O)C2=CC=CC=C2 | C26H25NO3S
